US07772245B2
A solution of 6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinate (12 mg) in dioxane (1.5 mL) was treated with 50% aqueous hydroxylamine (0.2 mL). After 15 minutes, 1N sodium hydroxide (0.06 mL) was added and the reaction was stirred for 72 hours. The reaction was quenched with 1N hydrochloric acid (0.06 mL) and the solvent evaporated. The residue was purified by preparative hplc and the pure samples freeze dried to give N-hydroxy-6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinamide as a yellow solid (4 mg), m/e=308 (M+1). 1H NMR (DMSOd6) ppm: 2.8 (2H, m), 4.05 (2H, m), 4.85 (2H, s), 6.9-7.08 (3H, m), 7.29 (1H, d), 7.39 (1H, d), 7.87-7.91 (1H, m), 8.5 (1H m), 10.9 (1H, s), 11.05 (1H, bs).

reactant | 6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinate | 12 mg | C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C(=O)[O-])C=C1
reactant | hydroxylamine | 0.2 mL | NO | H3NO
reactant | sodium hydroxide | 1N, 0.06 mL | [OH-].[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | N-hydroxy-6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinamide | 4 mg | ONC(C1=CN=C(C=C1)N1CC=2NC3=CC=CC=C3C2CC1)=O | C17H16N4O2
